US07223769B2
In 3 ml of tetrahydrofuran was suspended 0.10 g of sodium hydride (60% in oil), to which 0.4 ml of a solution containing 0.33 g of 3,3,3-trichloro-2-propanol was added dropwise at room temperature, followed by stirring for 10 minutes. To this was added dropwise 0.4 ml of a solution containing 0.3 g of 4,6-dichloropyrimidine in tetrahydrofuran at 0° C., followed by stirring at the same temperature for 30 minutes. To this was added dropwise 0.4 ml of a solution containing 0.20 g of 2-pentyn-1-ol at room temperature and further added 0.10 g of sodium hydride (60% in oil), followed by stirring for 2 hours. The reaction mixture was then poured into a saturated aqueous ammonium chloride solution, which was extracted three times with t-butyl methyl ether. The combined organic layers were washed with a saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and then concentrated. The residue was subjected to silica gel column chromatography to give 0.47 g of 4-(2-pentynyloxy)-6-(2,2,2-trichloro-1-methylethoxy)pyrimidine (the present compound (38)).

reactant | sodium hydride | 0.10 g | [H-].[Na+]
reactant | 3,3,3-trichloro-2-propanol | 0.33 g | ClC(C(C)O)(Cl)Cl | C3H5Cl3O
reactant | 4,6-dichloropyrimidine | 0.3 g | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | 2-pentyn-1-ol | 0.20 g | C(C#CCC)O | C5H8O
reactant | sodium hydride | 0.10 g | [H-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | 4-(2-pentynyloxy)-6-(2,2,2-trichloro-1-methylethoxy)pyrimidine | 0.47 g | C(C#CCC)OC1=NC=NC(=C1)OC(C(Cl)(Cl)Cl)C | C12H13Cl3N2O2
